US07192980B2
b) Preparation of (2Z,4S,5S,6S,7Z,10S,11R,12R,13S,14S,15Z)-13-[(aminocarbonyl)oxy]-5,11-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N,4,6,8,10,12,14-heptamethyl-N-phenyl-2,7,15,17-octadecatetraenamide.
To a solution of (2Z,4S,5S,6S,7Z,10S,11R,12R,13S,14S,15Z)-5,11-bis[[(1,1-dimethylethyl) dimethylsilyl]oxy]-13-hydroxy-N,4,6,8,10,12,14-heptamethyl-N-phenyl-2,7,15,17-octadecatetraenamide (110 mg, 0.152 mmol, 1 eq) in CH2Cl2 (2 mL) is treated with trichloroacetyl isocyanate (43 mg, 0.228 mmol, 1.5 eq) at 23° C. (20 minutes). The solution is concentrated, and the residue dissolved in CH3OH (2 mL). To this solution is added K2CO3 (0.1 g) and the mixture is stirred at 23° C. (2 hours). The reaction mixture is concentrated and the residue dissolved in Et2O (5 mL). The organic solution is washed with H2O (1×20 mL) and brine (1×20 mL). The aqueous layer is extracted with Et2O (3×5 mL) and the combined extracts are dried (Na2SO4) and concentrated. Chromatography (SiO2, 30–50% EtOAc-hexanes gradient elution) provided the desired compound (70 mg, 60%).

reactant | (2Z,4S,5S,6S,7Z,10S,11R,12R,13S,14S,15Z)-5,11-bis[[(1,1-dimethylethyl) dimethylsilyl]oxy]-13-hydroxy-N,4,6,8,10,12,14-heptamethyl-N-phenyl-2,7,15,17-octadecatetraenamide | 0.152 mmol, 110 mg, 1 eq | CC(C)(C)[Si](O[C@@H]([C@H](\C=C/C(=O)N(C1=CC=CC=C1)C)C)[C@H](\C=C(/C[C@@H]([C@H]([C@@H]([C@H]([C@H](\C=C/C=C)C)O)C)O[Si](C)(C)C(C)(C)C)C)\C)C)(C)C | C43H75NO4Si2
reactant | trichloroacetyl isocyanate | 0.228 mmol, 43 mg, 1.5 eq | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (2Z,4S,5S,6S,7Z,10S,11R,12R,13S,14S,15Z)-13-[(aminocarbonyl)oxy]-5,11-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N,4,6,8,10,12,14-heptamethyl-N-phenyl-2,7,15,17-octadecatetraenamide | 70 mg, 60% | NC(=O)O[C@H]([C@H]([C@@H]([C@H](C\C(=C/[C@@H]([C@H]([C@H](\C=C/C(=O)N(C1=CC=CC=C1)C)C)O[Si](C)(C)C(C)(C)C)C)\C)C)O[Si](C)(C)C(C)(C)C)C)[C@H](\C=C/C=C)C | C44H76N2O5Si2
